US08217028B2
Thionyl chloride (1 mL) was added to a solution of 5-cyano-1H-indole-2-carboxylic acid (D20) (1.1 g) in ethanol (120 mL) at RT. The resulting solution was heated to reflux and stirred when refluxing for 20 hours. Another portion of thionyl chloride (0.5 mL) was added. The reaction mixture was refluxed for 2 hours. The solvent was evaporated to afford ethyl 5-cyano-1H-indole-2-carboxylate (D21) (0.9 g) as a light green solid. MS (ES): C12H10N2O2 requires 214; found 215.2 (M+H+)

reactant | Thionyl chloride | 1 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 5-cyano-1H-indole-2-carboxylic acid | 1.1 g | C(#N)C=1C=C2C=C(NC2=CC1)C(=O)O | C10H6N2O2
reactant | thionyl chloride | 0.5 mL | S(=O)(Cl)Cl | Cl2OS
reactant | ethanol | 120 mL | C(C)O | C2H6O
product | ethyl 5-cyano-1H-indole-2-carboxylate | 0.9 g | C(#N)C=1C=C2C=C(NC2=CC1)C(=O)OCC | C12H10N2O2
